US04136256
Preparation of N-[4-(hexadecylamino)benzoyl]-4-t-butylbenzenesulfonamide
A solution of 21.1 g. of 4-(hexadecylamino)benzoyl chloride hydrochloride and 10.8 g. of p-tert-butylbenzenesulfonamide in 250 ml. of pyridine was stirred under reflux for 2 hours and evaporated. The residue was partitioned between 1N hydrochloric acid and CH2Cl2 and the organic layer was separated, washed with water, dried (MgSO4), and evaporated. Crystallization of the residual glass from CH2Cl2 hexane afforded a white solid, melting point 173°-176° C.

reactant | 4-(hexadecylamino)benzoyl chloride hydrochloride | Cl.C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)Cl)C=C1
reactant | p-tert-butylbenzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N | C10H15NO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-[4-(hexadecylamino)benzoyl]-4-t-butylbenzenesulfonamide | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)NS(=O)(=O)C2=CC=C(C=C2)C(C)(C)C)C=C1 | C33H52N2O3S
